data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCCCCC)O>>CCCCCC1=CC=C[N:21]=C1.CCCCCOCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1C([O:10]1)(C)C>>[H:20][O+:10]1C(C1(C)C)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[N:21]2[CH:20]3C2C4C(C(C3[O-:10])O[Si](C)(C)C(C)(C)C)OC(O4)(C)C.[Li+].CC(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[N-:21]C2[CH:20]3C([O:10]3)C(C4C2OC(O4)(C)C)O[Si](C)(C)C(C)(C)C.[Li+].CC(C)C 10=20;20,21=21
[H:20][O:21]C1=C(C(=C(C(=C1)OC)Cl)C)Cl.CC[N:10](CC)CC.CC(=CCC1=C(C(=C(C=C1O)O)C=O)C=O)C>>[H:20][N+:10](CC)(CC)CC.CC1=C(C(=CC(=C1Cl)[O-:21])OC)Cl.CC(=CCC1=C(C(=C(C=C1O)O)C=O)C=O)C 10=20;20,21=21
C[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][NH+:21](CCCC)C(CC)([O-])OCC.CCCC[NH2:10]>>[H:20][NH2+:10]CCCC.CCCC[NH:21]C(CC)([O-])OCC 10=20;20,21=21
CC(C[CH2:20][OH2+:21])O.C1COCCC1[S:10]C2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(C[CH2:20][S+:10](C1CCOCC1)C2=CC=CC=C2)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[CH:20]([C:21](I)(I)I)[O-:10]>>C[CH:20]=[O:10].[C-:21](I)(I)I 10=20;20,21=21
[Li:11][C:10]1=CC=CC=C1.CN(C)[C:20](=[O:21])CC#N>>[Li+:11].CN(C)[C:20](CC#N)([C:10]1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21
CC([C:20](=[OH+:21])Br)Br.C[OH:10]>>CC([C:20]([OH:21])([OH+:10]C)Br)Br 10=20;20,21=21
C1CC[NH:10]CC1.C1=CC(=CC=C1[CH2:20][Cl:21])C#N>>C1CC[NH+:10](CC1)[CH2:20]C2=CC=C(C=C2)C#N.[Cl-:21] 10=20;20,21=21
CC[O:21][C:20](=O)[O-:10].B.CCCC(CC(=O)OC(C)(C)C)C=O.[Na+]>>CC[O-:21].[C:20](=O)=[O:10].B.CCCC(CC(=O)OC(C)(C)C)C=O.[Na+] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CCCC(C2OC(=[O:10])C)CC(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CCCC(C2O1)CC(C)C 10=20;20,21=21
CN(C)[P:11]12([N:10]=[N:20][N:21]1C3=CC=CC=C3)OC4=C(O2)C=CC=C4>>CN(C)[P+:11]1(OC2=C(O1)C=CC=C2)[N-:21]C3=CC=CC=C3.[N:10]#[N:20] 10,11=10,20;20,21=21
CC(C)C[CH:20](CC1CCCCC1)[O+:21]2CCOCC2.[Cl-:10].OS(=O)Cl>>C1COCC[O:21]1.CC(C)C[CH:20](CC1CCCCC1)[Cl:10].OS(=O)Cl 10=20;20,21=21
[H:20][CH:21](CC)[C+:22](C)C=O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[CH:21]=[C:22](C)C=O 10=20;20,21=21,22
[H:20][N:21]1CCC[N+:23]2=[C:22]1CCCCC2.CC1CCC=C[C:11](=[CH:10]1)[O:12][Si](C)(C)C.[I-]>>[H:20][CH:10]1C(CCC=C[C:11]1=[O+:12][Si](C)(C)C)C.C1CC[C:22]2=[N:21]CCC[N:23]2CC1.[I-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][C:21]1([CH+:22]C=C(O1)C#N)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[C:21](=[CH:22]1)S(=O)(=O)O)C#N 10=20;20,21=21,22
C[NH+:21]=[C:20]=NC.C[S+](C)[O-:10]>>C[NH:21][C:20](=NC)[O:10][S+](C)C 10=20;20,21=21
C1CCC(C1)C2=CC=CC(=C2)CCC[C+:20]=C3CCCN(C3)CC4=CC=CC=C4.[N-:10]=[N+]=[N-].CO.O.[Na+]>>C1CCC(C1)C2=CC=CC(=C2)CCC[C:20](=C3CCCN(C3)CC4=CC=CC=C4)[N:10]=[N+]=[N-].CO.O.[Na+] 10=20,
[H:20][O:21]C(=O)C(F)(F)F.C1=C[NH:12][CH:11]=[CH:10]1>>[H:20][CH:10]1C=C[NH+:12]=[CH:11]1.C(=O)(C(F)(F)F)[O-:21] 10,11=10,20;20,21=21;12=11
CCO[C:11]1=[CH:10]C=CC=C1.O[S+:20](=O)=O>>CCO[C+:11]1C=CC=C[CH:10]1[S:20](=O)(=O)O 10,11=10,20
CCC(C)(C)O[C:20](C)([N+:21]1=CC=C(C=C1)N(C)C)[O-:10].CC(=O)O>>CCC(C)(C)O[C:20](=[O:10])C.CN(C)C1=CC=[N:21]C=C1.CC(=O)O 10=20;20,21=21
CCCC[P:10](CCCC)CCCC.[CH3:20][I:21]>>CCCC[P+:10]([CH3:20])(CCCC)CCCC.[I-:21] 10=20;20,21=21
C1=C[C:20]([N-:10]C=C1)(N)[Cl:21]>>C1=C[C:20](=[N:10]C=C1)N.[Cl-:21] 10=20;20,21=21
[H:20][OH2+:21].CCC1(C[O:10]1)C>>[H:20][O+:10]1CC1(C)CC.[OH2:21] 10=20;20,21=21
CCOC(C[P+:22](OCC)(OCC)[O:21][CH2:20]C)OCC.[Br-:10]>>CCOC(C[P:22](=[O:21])(OCC)OCC)OCC.C[CH2:20][Br:10] 10=20;20,21=21,22
[H:20][O+:21]1CCCCC1C(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C1CCCC[O:21]1)O 10=20;20,21=21
C[C:20](=[O:21])C.C[C:10](=C)[Mg:11]Br>>C[C:10](=C)[C:20](C)(C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
COC1=C(C2=C(CC3C4C2(CCN3CC5CC5)[CH+:20]C(=CC4)O)C=C1)[OH:10].CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C2C3=C(CC4C5C3(CCN4CC6CC6)[CH:20]([OH+:10]2)C(=CC5)O)C=C1.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10=20,
CC(C)[C:20](=[O:21])CC1=CC=CC=C1.CC(C)[C:11](=[CH:10]C1=CC=CC=C1)[O-:12]>>CC(C)[C:11](=[O:12])[CH:10](C1=CC=CC=C1)[C:20](CC2=CC=CC=C2)(C(C)C)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].COC1[CH:10]=[C:11](CCC1(C(=O)OC)NC(=O)C2=CC=CC=C2)[O:12][Si-](C)(C)(C)F.[Na+]>>[H:20][CH:10]1C(C(CC[C:11]1=[O+:12][Si-](C)(C)(C)F)(C(=O)OC)NC(=O)C2=CC=CC=C2)OC.[OH-:21].[Na+] 10,11=10,20;20,21=21;12=11
CC1=CC=C(C=C1)S(=O)(=O)[O-].COC(=O)[N:10]1CCCC([C:20]1(C2=CC=CC=C2)[OH2+:21])O>>CC1=CC=C(C=C1)S(=O)(=O)[O-].COC(=O)[N+:10]1=[C:20](C(CCC1)O)C2=CC=CC=C2.[OH2:21] 10=20;20,21=21
[H:20][O+:21](C(C)CC)S(=O)(C(F)(F)F)([O-])OS(=O)(=O)C(F)(F)F.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCC(C)[O:21]S(=O)(C(F)(F)F)([O-])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
C[CH2:20][Br:21].[CH2:10]=[CH:11][N:12]1CCCCC1>>C[CH2:20][CH2:10][CH:11]=[N+:12]1CCCCC1.[Br-:21] 10,11=10,20;20,21=21;12=11
CC[NH:10][CH:20](C)[OH2+:21]>>CC[NH+:10]=[CH:20]C.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].C[O:10]C(CC1=CC=CC=C1)O>>[H:20][O+:10](C)C(CC1=CC=CC=C1)O.[OH2:21] 10=20;20,21=21
